US05882628
a. 3-Acetoxymethyl-5-(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodoaniline
3-Hydroxymethyl-5-(2,3-dihydroxypropylaminocarbonyl)-2,4,6-triiodoaniline (1.89 g, 3.06 mmol) prepared according to Example 3d, was dissolved in a mixture of acetic anhydride (5 ml) and pyridine (5 ml). The mixture was stirred at room temperature for 24 h, CH2Cl2 (100 ml) was added and the solution was washed with water (3×25 ml), with a saturated aqueous solution of NaHCO3, dried (Na2SO4) and evaporated. The product was purified by flash chromatography on silica gel using a mixture of CH2Cl2 and methanol (98:2) as the eluent. Yield: 1.30 g (57%).

reactant | 3-Hydroxymethyl-5-(2,3-dihydroxypropylaminocarbonyl)-2,4,6-triiodoaniline | 3.06 mmol, 1.89 g | OCC=1C(=C(N)C(=C(C1I)C(=O)NCC(CO)O)I)I | C11H13I3N2O4
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-Acetoxymethyl-5-(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodoaniline | C(C)(=O)OCC=1C(=C(N)C(=C(C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)I | C17H19I3N2O7
